US08071824B2
3,3-Dimethyl-1-(2-nitrophenyl)butan-2-ol
To 153.9 g (1.12 mol) of 2-nitrotoluene in 900 ml of DMF are added, within one hour, 4.5 g (80.2 mmol) of KOH and simultaneously 193.3 g (2.24 mol) of pivalaldehyde. Subsequently, first a further 0.5 equivalent of pivalaldehyde is added and the mixture is stirred at RT for one hour, then another 0.5 equivalent of pivalaldehyde is added and the mixture is stirred at room temperature for a further 2 hours. The mixture is acidified with 40 ml of 10 percent aqueous hydrochloric acid until the color changes (pH 4.5) and a majority of the DMF is distilled off under reduced pressure. After the residue has been distilled at 130° C./0.9 mbar, 136.8 g (yield 54% of theory, purity (GC-MS 98%) of 3,3-dimethyl-1-(2-nitrophenyl)butan-2-ol are obtained.

reactant | 2-nitrotoluene | 1.12 mol, 153.9 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | KOH | 80.2 mmol, 4.5 g | [OH-].[K+]
reactant | pivalaldehyde | 2.24 mol, 193.3 g | C(C(C)(C)C)=O | C5H10O
reactant | pivalaldehyde | 0.5 equivalent | C(C(C)(C)C)=O | C5H10O
reactant | pivalaldehyde | 0.5 equivalent | C(C(C)(C)C)=O | C5H10O
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | DMF | 900 ml | CN(C)C=O | C3H7NO
product | 3,3-Dimethyl-1-(2-nitrophenyl)butan-2-ol | yield 54% | CC(C(CC1=C(C=CC=C1)[N+](=O)[O-])O)(C)C | C12H17NO3
